US06440995B1
2-(8-Methoxy-2-phenyl-quinolin-4-ylamino)-ethanol hydrochloride
The title compound, m.p. 205-209° C., and MS: m/e=295.3 (M+H+), was prepared from 4-chloro-8-methoxy-2-phenyl-quinoline and ethanolamine.

reactant | 4-chloro-8-methoxy-2-phenyl-quinoline | ClC1=CC(=NC2=C(C=CC=C12)OC)C1=CC=CC=C1 | C16H12ClNO
reactant | ethanolamine | C(O)CN | C2H7NO
product | 2-(8-Methoxy-2-phenyl-quinolin-4-ylamino)-ethanol hydrochloride | Cl.COC=1C=CC=C2C(=CC(=NC12)C1=CC=CC=C1)NCCO | InChI=1S/C18H18N2O2.ClH/c1-22-17-9-5-8-14-16(19-10-11-21)12-15(20-18(14)17)13-6-3-2-4-7-13;/h2-9,12,21H,10-11H2,1H3,(H,19,20);1H
